US04861791
5-(5-Acetyl-2-furanyl)pentanol (9.8 g), 13.1 g of triphenylphosphine and 100 ml of carbon tetrachloride were combined and heated at reflux for 4 hours. The reaction mixture was concentrated in vacuo, and the residue was dissolved in ether and filtered. The filtrate was concentrated and the residue distilled twice to give 2-(5-chloropentyl)-5-acetylfuran, b.p. 100°-102° C. (0.05 mm) in 60% yield.

reactant | 5-(5-Acetyl-2-furanyl)pentanol | 9.8 g | C(C)(=O)C1=CC=C(O1)CCCCCO | C11H16O3
reactant | triphenylphosphine | 13.1 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrachloride | 100 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-(5-chloropentyl)-5-acetylfuran | 60% yield | ClCCCCCC=1OC(=CC1)C(C)=O | C11H15ClO2
